US07138425B2
a) 2-(5-Nitro-2-butoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 44a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.6 mmol) in butanol (2 ml) the subtitle compound was obtained (195 mg, 87%). 1H NMR (DMSO) δ 8.87(d, 1H), 8.45(dd, 1H), 8.08(d, 1H), 7.85(d, 1H), 7.70(m, 3H), 7.51(t, 3H), 7.40(t, 1H), 4.35(t, 2H), 1.83(q, 2H), 1.57(m, 2H), 1.01(t, 3H).

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.6 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
solvent | butanol | 2 ml | C(CCC)O | C4H10O
product | 2-(5-Nitro-2-butoxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCCC | C23H20N2O4
